### PR TITLE
feat(Analysis/Analytic): simple zeros and logarithmic residue

### PR DESCRIPTION
**Pull request by psinary-sketch**
Three new theorems about simple zeros of analytic functions:

- AnalyticAt.analyticOrderAt_eq_one_of_zero_deriv_ne_zero: if f is analytic at z₀, f(z₀) = 0, and f'(z₀) ≠ 0, then analyticOrderAt f z₀ = 1.

- AnalyticAt.eventually_ne_of_deriv_ne_zero: under the same hypotheses, f is nonzero in a punctured neighborhood of z₀.

- AnalyticAt.tendsto_residue_simple_zero: the logarithmic residue (w - z₀) * f'(w)/f(w) → 1 as w → z₀. Key ingredient for residue computation of meromorphic functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib.lean [hunk 1]
```diff
@@ -1,4 +1,6 @@
 module  -- shake: keep-all
+set_option linter.style.longLine false
+module  -- shake: keep-all
```
Comment (wwylele) [inline Mathlib.lean]: Could you remove this change?

File: Mathlib.lean [hunk 2]
```diff
@@ -7800,4 +7800,3 @@ public import Mathlib.Util.TransImports
 public import Mathlib.Util.WhatsNew
 public import Mathlib.Util.WithWeakNamespace
```
Comment (wwylele) [inline Mathlib.lean:7802]: What's up with these changes?

File: Mathlib.lean (hunk 1 above)
Comment (psinary-sketch) [reply Mathlib.lean]: Done, removed the stale lines. Thanks for catching that.

File: Mathlib.lean (hunk 2 above)
Comment (psinary-sketch) [reply Mathlib.lean:7802]: Sorry, artifact from PowerShell line-ending handling. Let me fix.

Fixed — the trailing changes were an artifact of PowerShell line-ending handling. The diff should now be clean: just the one import line added.

File: Mathlib/Analysis/Analytic/SimpleZero.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+* `AnalyticAt.tendsto_residue_simple_zero`: the logarithmic residue
+  `(w - z₀) * f'(w) / f(w) → 1` as `w → z₀`.
+-/
+
+open Complex Filter Topology
+
+public section SimpleZero
+
+/-- At a zero with nonvanishing derivative, the analytic order is 1. -/
+theorem AnalyticAt.analyticOrderAt_eq_one_of_zero_deriv_ne_zero
```
Comment (wwylele) [inline Mathlib/Analysis/Analytic/SimpleZero.lean:31]: Since this is a direct corollary of [AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Analytic/Order.html#AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero), I think it should be moved to that file next to the existing lemma

File: Mathlib/Analysis/Analytic/SimpleZero.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+    {f : ℂ → ℂ} {z₀ : ℂ} (hf : AnalyticAt ℂ f z₀)
+    (hfz : f z₀ = 0) (hf' : deriv f z₀ ≠ 0) :
+    analyticOrderAt f z₀ = 1 := by
+  have h := hf.analyticOrderAt_sub_eq_one_of_deriv_ne_zero hf'
+  have : (fun w => f w - f z₀) =ᶠ[𝓝 z₀] f := by
+    filter_upwards with w; simp [hfz]
+  rwa [analyticOrderAt_congr this] at h
+
+/-- At a simple zero, the function is nonzero in a punctured neighborhood. -/
+theorem AnalyticAt.eventually_ne_of_deriv_ne_zero
```
Comment (wwylele) [inline Mathlib/Analysis/Analytic/SimpleZero.lean:41]: Same for this one. It should be either in Mathlib.Analysis.Analytic.IsolatedZeros or Mathlib.Analysis.Analytic.Order, whichever is further from the import tree root

File: Mathlib/Analysis/Analytic/SimpleZero.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+  have h_not_ev : ¬(∀ᶠ z in 𝓝 z₀, f z = 0) :=
+    fun h => h_ne_top (analyticOrderAt_eq_top.mpr h)
+  exact (hf.eventually_eq_zero_or_eventually_ne_zero).resolve_left h_not_ev
+
+/-- At a simple zero, the logarithmic residue `(w - z₀) * f'(w)/f(w)` tends to 1.
+This is the key ingredient for computing residues of meromorphic functions. -/
+theorem AnalyticAt.tendsto_residue_simple_zero
+    {f : ℂ → ℂ} {z₀ : ℂ} (hf : AnalyticAt ℂ f z₀)
+    (hfz : f z₀ = 0) (hf' : deriv f z₀ ≠ 0) :
+    Tendsto (fun w => (w - z₀) * (deriv f w / f w))
```
Comment (wwylele) [inline Mathlib/Analysis/Analytic/SimpleZero.lean:56]: Since `logDeriv f x = deriv f x / f x`, I think this should be stated with `logDeriv` and moved to Mathlib.Analysis.Calculus.LogDeriv

File: Mathlib/Analysis/Analytic/SimpleZero.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+    analyticOrderAt f z₀ = 1 := by
+  have h := hf.analyticOrderAt_sub_eq_one_of_deriv_ne_zero hf'
+  have : (fun w => f w - f z₀) =ᶠ[𝓝 z₀] f := by
+    filter_upwards with w; simp [hfz]
+  rwa [analyticOrderAt_congr this] at h
+
+/-- At a simple zero, the function is nonzero in a punctured neighborhood. -/
+theorem AnalyticAt.eventually_ne_of_deriv_ne_zero
+    {f : ℂ → ℂ} {z₀ : ℂ} (hf : AnalyticAt ℂ f z₀)
+    (hfz : f z₀ = 0) (hf' : deriv f z₀ ≠ 0) :
```
Comment (wwylele) [inline Mathlib/Analysis/Analytic/SimpleZero.lean:43]: `(hfz : f z₀ = 0)` can be dropped, right?

**Review by wwylele — COMMENTED** [review]
I didn't check the proof body and only commented on statements. But the amount of `have` suggests there are likely space to simplify the proof

File: Mathlib/Analysis/Analytic/SimpleZero.lean (hunk 5 above)
Comment (psinary-sketch) [reply Mathlib/Analysis/Analytic/SimpleZero.lean:56]: Thanks for the detailed review! You're right on all points — these belong in their natural homes rather than a new file. I'll close this PR and split into three smaller ones:

analyticOrderAt_eq_one_of_zero_deriv_ne_zero → added to Order.lean
eventually_ne_of_deriv_ne_zero (without hfz) → added to Order.lean or IsolatedZeros.lean
Residue limit restated with logDeriv → added to LogDeriv.lean

Will also simplify the proofs. Thanks for guiding the placement.
